US04137320
100 ml of a 70% solution of NaAlH2 (CH3OCH2CH2O)2 in benzene are dropped at 25° into a suspension of 25 g of 3-methyl-6-carbomethoxy-imidazo-(2,1-b)thiazole, prepared as described in Example 8, in 250 ml of dry THF. The suspension is stirred for 2 hours at room temperature and thereafter 25 ml of water are slowly added. The suspension is then filtered and the filtrate concentrated to yield 21 g of 3-methyl-6-hydroxymethyl-imidazo-(2,1-b)thiazole; m.p. 155°-156° (methyl-ethyl-ketone).

reactant | 3-methyl-6-carbomethoxy-imidazo-(2,1-b)thiazole | 25 g | CC=1N2C(SC1)=NC(=C2)C(=O)OC | C8H8N2O2S
reactant | water | 25 ml | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 3-methyl-6-hydroxymethyl-imidazo-(2,1-b)thiazole | 21 g | CC=1N2C(SC1)=NC(=C2)CO | C7H8N2OS
